US07122571B2
4-Bromobenzaldehyde-4-sulfamylphenylhydrazone
A solution of 4-bromobenzaldehyde (5 mmol) and 4-sulfamylphenyl-hydrazine hydrochloride was subjected to the General Procedure. The title compound, melting point 190–192° C., was obtained in 66% yield.

reactant | 4-bromobenzaldehyde | 5 mmol | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 4-sulfamylphenyl-hydrazine hydrochloride | Cl.S(N)(=O)(=O)C1=CC=C(C=C1)NN
product | 4-Bromobenzaldehyde-4-sulfamylphenylhydrazone | 66% yield | S(N)(=O)(=O)C1=CC=C(C=C1)NN=CC1=CC=C(C=C1)Br | C13H12BrN3O2S
